US05643932
In 20 ml of methanol was dissolved 1 g of 2-(3,4-diethoxyphenyl)-4-[3-methoxymethoxymethoxycarbonyl-4-methoxymethoxy-5-(2-methyl-2-propenyl)phenyl]thiazole. Into the solution being stirred under ice-cooling was blown ozone. After 1 hour, 0.5 ml of methyl sulfide was added. The mixture was stirred at the same temperature for 30 minutes. The solvent was removed from the reaction mixture by distillation. To the residue were added 50 ml of dichloromethane and 25 ml of water. The organic layer was separated, washed with 15 ml of a saturated aqueous sodium chloride solution, dried and subjected to distillation to remove the solvent. The residue was purified by silica gel column chromatography (eluent: dichloromethane/n-hexane =2/3 by v/v) to obtain 500 mg of 2-(3,4-diethoxyphenyl)-4-(3-methoxymethoxycarbonyl-4-methoxymethoxy-5-acetylmethylphenyl)thiazole as a colorless oily substance.

reactant | 2-(3,4-diethoxyphenyl)-4-[3-methoxymethoxymethoxycarbonyl-4-methoxymethoxy-5-(2-methyl-2-propenyl)phenyl]thiazole | 1 g | C(C)OC=1C=C(C=CC1OCC)C=1SC=C(N1)C1=CC(=C(C(=C1)CC(=C)C)OCOC)C(=O)OCOCOC | C29H35NO8S
reactant | ozone | O=[O+][O-] | O3
reactant | methyl sulfide | 0.5 ml | CSC | C2H6S
solvent | methanol | 20 ml | CO | CH4O
product | 2-(3,4-diethoxyphenyl)-4-(3-methoxymethoxycarbonyl-4-methoxymethoxy-5-acetylmethylphenyl)thiazole | 500 mg | C(C)OC=1C=C(C=CC1OCC)C=1SC=C(N1)C1=CC(=C(C(=C1)CC(C)=O)OCOC)C(=O)OCOC | C27H31NO8S
